Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Exertional dyspnea, orthopnea, exertional chest pain
 
Major Surgical or Invasive Procedure:
___ AVR(___ tis)CABG x1(LIMA>LAD), 
Left Cardiac Catheterization

 
History of Present Illness:
Mr. ___ is a ___ year old man with known critical aortic 
stenosit and coronary artery disease. He has been closely 
followed by his serial echocardiograms. In ___, he was 
evaluated by cardiac surgery and aortic valve replacement was 
recommended at that time. He declined surgery at that time and 
did not follow up with cardiology.

Over the past few weeks, he has noted exertional dyspnea and 
fatigue. He noted that he was short of breath with minimal 
exertion that had gotten progressively worse. He was unable to 
climb even a few stairs or do simple activities like gardening. 
It progressed to that point that he felt short of breath and 
developed chest tightness with any exertion. His symptoms were 
relieved with rest. Lately, he noted trouble sleeping and lying 
flat in bed. His dyspnea and chest tightness was associated with 
nausea and anxiety. He had a cough with frothy white sputum 
everytime he has these symptoms. His appetite has been poor. 

___ course: Afebrile, tachycardic with HR-102, 
BP-140/79, not hypoxic.  Labs revealed elevated BNP of 1300 and 
troponin of 0.04, which peaked at 0.06.  Medically managed with 
lovenox, aspirin, metoprolol, aspirin.  At ___, patient 
was noted to have elevated troponin and new onset atrial 
fibrillation.  He was given lovenox and rate controlled with 
home metoprolol.  He was also noted to be fluid overloaded, so 
he was given IV lasix 40mg x1, and diuresed 1.5L. Transferred to 
___ for cardiac catheterization, AVR workup. 

Also of note, patient had microscopic hematuria, has h/o BPH s/p 
TURP, will need outpatient urology follow-up.
 
Past Medical History:
Aortic Stenosis
Benign Prostatic Hyperplasia
Coronary Artery Disease- 3 vessel CAD 
Gastroesophageal Reflux Disease
Gout
Hyperlipidemia
Hypertension 
Hypothyroidism

Surgical History:
TURP
 
Social History:
___
Family History:
No premature coronary artery disease 
 
Physical Exam:
ON ADMISSION:
VS: T 97.9 HR 49 BP 101/64 RR 16 100% RA
GENERAL: Anxious, but otherwise in NAD. 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 10-11 cm.  
CARDIAC: RRR, systolic crescendo-decrescendo murmur at apex with 
radiation to the carotids.  
LUNGS: Bibasilar inspiratory crackles. No wheezing or rhonci.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric

 
Pertinent Results:
EKG ___:
Atrial fibrillation with average ventricular rate of 107 beats 
per minute.
Leftward axis. Left ventricular hypertrophy with non-specific 
ST-T wave
abnormalities. No previous tracing available for comparison.
 
Read ___.
 IntervalsAxes
___
___

TRANSTHORACIC ECHOCARDIOGRAM ___
This study was compared to the prior study of ___.  
LEFT ATRIUM: Mild ___. 

LEFT VENTRICLE: Mild symmetric LVH with normal cavity size. Mild 
regional LV systolic dysfunction. No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Moderately dilated aorta at sinus level. Mildly dilated 
ascending aorta. Mildly dilated aortic arch. 

AORTIC VALVE: Bioprosthetic aortic valve prosthesis (AVR). AVR 
well seated, normal leaflet/disc motion and transvalvular 
gradients. No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 

___ VALVE: Mild PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not visualized. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Suboptimal image quality - body habitus.  

REGIONAL LEFT VENTRICULAR WALL MOTION:  

Conclusions  
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with near 
akinesis of the inferior/inferolateral walls and hypokinesis of 
the distal inferior septum. Right ventricular chamber size and 
free wall motion are normal. The aortic root is moderately 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. A bioprosthetic 
aortic valve prosthesis is present. The aortic valve prosthesis 
appears well seated, with normal leaflet/disc motion and 
transvalvular gradients. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: regional left ventricular systolic dysfunction as 
described above. Normally positioned AVR with normal gradients. 
Mild mitral regurgitation. Dilated thoracic aorta.

Compared with the prior study (images reviewed) of ___, a 
bioprosthetic AVR is present. Regional wall motion abnormalities 
are similar. Mild mitral regurgitation. Mild pulmonary 
hypertesion.   
  

CHEST (PA & LAT) ___:
CVA scoliosis causing asymmetry of the ribcage. Moderate 
cardiomegaly with enlargement of the left ventricle. Moderate 
elongation of the descending aorta.  No pleural effusions.  No 
pneumonia, no pulmonary edema.

CAROTID SERIES COMPLETE ___:
Mild heterogeneous carotid plaque burden identified bilateral.  
Less than 40% stenosis of bilateral internal carotid arteries.
.
TEE ___
Conclusions  
The left atrium is markedly dilated. Mild spontaneous echo 
contrast is seen in the body of the left atrium. A left atrial 
appendage thrombus cannot be excluded. The left ventricular 
cavity is moderately dilated. Right ventricular chamber size and 
free wall motion are normal. The ascending, transverse and 
descending thoracic aorta are normal in diameter . The aortic 
valve leaflets are severely thickened/deformed. There is very 
severe aortic valve stenosis (Vmax ___ or mean gradient 
>=60mmHg; valve area <1.0cm2). Moderate (2+) aortic 
regurgitation is seen. Mild (1+) mitral regurgitation is seen. 
There is no pericardial effusion. There is mild tricuspid 
regurgitation. LVEF is 35-40% .There is hypokinesis of the 
inferoseptal wall.
Post bypass
EF improved to 45-50% .Aortic valve is well seated with no 
perivalvular leak .   
.

___ 09:40AM BLOOD WBC-12.2* RBC-3.14* Hgb-10.5* Hct-31.5* 
MCV-100* MCH-33.4* MCHC-33.4 RDW-14.6 Plt ___
___ 07:25AM BLOOD WBC-15.8* RBC-3.00* Hgb-9.9* Hct-30.1* 
MCV-101* MCH-32.9* MCHC-32.7 RDW-14.7 Plt ___
___ 07:15AM BLOOD WBC-21.4* RBC-3.24* Hgb-10.5* Hct-32.4* 
MCV-100* MCH-32.3* MCHC-32.3 RDW-15.4 Plt ___
___ 07:15AM BLOOD ___
___ 11:22AM BLOOD ___ PTT-26.2 ___
___ 06:05AM BLOOD ___ PTT-123.5* ___
___ 07:25AM BLOOD Glucose-83 UreaN-22* Creat-1.0 Na-135 
K-3.9 Cl-98 HCO3-32 AnGap-9
___ 02:59AM BLOOD Glucose-146* UreaN-18 Creat-1.3* Na-137 
K-4.3 Cl-102 HCO3-21* AnGap-18
___ 07:10AM BLOOD Glucose-101* UreaN-18 Creat-1.2 Na-139 
K-4.0 Cl-103 HCO3-25 AnGap-15
 
Brief Hospital Course:
MEDICINE COURSE:
___ y.o. man with history of most notable for HTN, HL, and severe 
aortic stenosis presenting with exertional dyspnea and ___ 
transferred from ___ with new onset Afib.

# Atrial Fibrillation: The patient presented new onset Afib, 
confirmed by admission EKG. Patient reportedly had episode of 
Afib with RVR at ___, unclear HR, but treated with 
Metoprolol Tartrate. CHADS score of 3(age, hypertension, dCHF). 
TSH was 4.6. TTE was most notable for newly depressed LVEF 
40-45% and worsening aortic stenosis ___ 0.5 cm2. The patient 
was previously treated with therapeutic SC Lovenox prior to 
admission, but transitioned to heparin gtt. The patient was 
rate-controlled with Metoprolol tartrate 50 mg PO BID. 

# Critical Aortic Stenosis: Patient with known critical AS (peak 
gradient of 109 mm Hg, mean velocity of 5.2 m/sec , and valve 
area of  <0.8cm2). Patient now symptomatic and repeat TTE 
notable for worsening aortic stenosis ASA now 0.5 cm2. The 
patient was re-evaluated by cardiac surgery and the patient has 
a bioprosthetic aortic valve replacement. 

# Diastolic CHF: Last TTE LVEF 55%, currently LVEF 40-45%. 
Patient presenting with worsening orthopnea and PND. On exam JVD 
to 10-11 cm. Patient also with bibasilar inspiratory crackles, 
but no ___ edema. Presentation concerning for diastolic CHF. 
Patient diuresed at OSH with Lasix 40 mg IV. On admission, the 
patient appeared euvolemic, thus further diuresis was witheld 
during this admission. 

# Troponinemia: At ___, trop peaked to 0.06, patient 
otherwise without active chest pain. ___ on ___ 
unremarkable for major stenotic cardiac lesions (50% mid LAD and 
30% RCA). Presentaiton likely from demand ischemia from in the 
setting of Afib and critical AS. At ___, repeat trop 0.01 and 
CK-MB 2. 

CHRONIC ISSUES:

# Hypothyroidism:
-The patient was continued on his home Levothyroxine 25 mcg PO 
QDaily.

# GERD: 
-The patient was continued on his home Omeprazole 20 mg PO 
QDaily.

# Gout:
-The patient was continued on his Allopurinol ___ mg PO QDaily. 

# Hypertension: On admission, the patient was relatively 
hypotensive SBPs 100s. The patient's home Lisinopril 25 mg PO 
QDaily was initially started. Chlorthalidone was held in the 
setting of soft BPs. Prior to surgery, the patient's Lisinopril 
was held. 

# BP s/p TURP: Patient has history of hematuria. On admission, 
the patient had no active hematuria. H/H was overall stable 
during this hospitalization.
=
=
=
=
=
=
=
================================================================
CARDIAC SURGERY COURSE:
The patient was brought to the Operating Room on ___ where 
the patient underwent Aortic Valve Replacement (27 mm tissue), 
CABG x 1 (LIMA-LAD) with Dr. ___.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  He 
remained in Sinus Rhythm.  He will continue anti-coagulation for 
recent AFib.  Left atrial appendage clot could not be excluded 
on TEE.  Continuation of anti-coagulation will be at the 
discretion of Cardiology/ PCP.  He developed a urinary tract 
infection and was started on Macrobid.  He failed several void 
trials and will be discharged with a Foley catheter.  He will 
follow up with his Urologist, Dr. ___ the ___, next 
week.   Chest tubes and pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  By the time 
of discharge on POD 4 the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics.  
The patient was discharged home with ___ in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 25 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Lorazepam 1 mg PO QHS:PRN Insomnia 
6. Simvastatin 40 mg PO QPM 
7. Metoprolol Tartrate 50 mg PO BID 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin EC 81 mg PO DAILY 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate 50 mg 1.5 tablet(s) by mouth three times 
a day Disp #*150 Tablet Refills:*0
5. Omeprazole 20 mg PO DAILY 
6. Simvastatin 10 mg PO QPM 
RX *simvastatin 10 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0
7. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
8. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*40 Tablet Refills:*0
9. Lorazepam 1 mg PO QHS:PRN Insomnia 
10. Furosemide 40 mg PO DAILY Duration: 10 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0
11. Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0
12. Chlorthalidone 25 mg PO DAILY 
resume when Furosemide course is completed 
13. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 7 
Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
every twelve (12) hours Disp #*14 Capsule Refills:*0
14. Warfarin 2 mg PO DAILY16 
dose to change daily 
RX *warfarin 2 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
15. DME
1 rolling walker
ICD-9: 414.00/715.95
prognosis: good
length of need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
s/p AVR/CABG

Secondary
Critical Aortic Stenosis
Atrial Fibrillation
Systolic Congestive Heart Failure
Troponinemia ___ to Demand Ischemia)
Complicated Urinary Tract Infection

Secondary:
Hypertension
Hypothyroidism
Gout

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Tramadol
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. 
Edema 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___